US05432192
3-[N-[3-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]propionic Acid
To a solution of 1.81 g of ethyl 3-[N-[3-(5H-dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]propionate in 19 ml of methanol, 5 ml of 2N sodium hydroxide aqueous solution was added and the mixture was refluxed for 30 minutes. The solvent was removed by distillation, and then the residue was dissolved in warm water and the solution was neutralized with 2N hydrochloric acid. The crystals precipitated were collected by filtration to give 1.23 g of colorless crystals. Recrystallization from aqueous ethanol gave colorless needles, mp 119°-120° C.

reactant | ethyl 3-[N-[3-(5H-dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]propionate | 1.81 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C)CCC(=O)OCC | C24H27NO2
solvent | methanol | 19 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
product | 3-[N-[3-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]propionic Acid | 1.23 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C)CCC(=O)O | C22H23NO2
